US06498169B1
Synthesis of 4-[N-(3,4-Methylenedioxyphenyl)-N-[2-(3,4,5-trimethoxyphenyl) benzyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]metyl]piperidine Dihydrochloride
4-(3,4-Methylenedioxyphenylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (119 mg) and 2-(3,4,5-trimethoxyphenyl)benzyl chloride (114 mg) were condensed in the same manner as described in Example 9. A free base obtained was converted to a dihydrochloroide to give the title compound as yellow powder.

reactant | 4-(3,4-Methylenedioxyphenylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 119 mg | C1OC=2C=C(C=CC2O1)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C27H31N3O5
reactant | 2-(3,4,5-trimethoxyphenyl)benzyl chloride | 114 mg | COC=1C=C(C=C(C1OC)OC)C1=C(CCl)C=CC=C1 | C16H17ClO3
product | 4-[N-(3,4-Methylenedioxyphenyl)-N-[2-(3,4,5-trimethoxyphenyl) benzyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]metyl]piperidine Dihydrochloride | Cl.Cl.C1OC=2C=C(C=CC2O1)N(CC1=C(C=CC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C43H47N3O8.2ClH/c1-47-38-20-30(21-39(48-2)42(38)51-5)34-10-8-7-9-29(34)26-46(33-11-12-36-37(24-33)54-27-53-36)32-14-17-45(18-15-32)25-28-13-16-44-35(19-28)31-22-40(49-3)43(52-6)41(23-31)50-4;;/h7-13,16,19-24,32H,14-15,17-18,25-27H2,1-6H3;2*1H
